US04416880
2-(2-Furylidene)-3-oxo-4-chlorobutyric acid ethyl ester
200 g of 4-chloroacetoacetic acid ethyl ester, 125.6 g of freshly distilled furfural, 2.6 ml of piperidine and 7 ml of glacial acetic acid were dissolved in 120 ml of benzene and the solution was boiled for 5 hours, using a water separator. 1 liter of ether was added to the cooled solution and the mixture was then extracted in each case once by shaking with saturated sodium bicarbonate solution, water, 2 M citric acid solution and again with water. After the extract had been dried over magnesium sulphate and concentrated, an oil was obtained and was subjected to incipient distillation under a high vacuum. The product remained as a viscous oil and the E/Z isomer ratio was 4:1. Yield: 86.8%.

reactant | 4-chloroacetoacetic acid ethyl ester | 200 g | C(C)OC(CC(=O)CCl)=O | C6H9ClO3
reactant | furfural | C(C1=CC=CO1)=O | C5H4O2
reactant | piperidine | 2.6 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
solvent | benzene | 120 ml | C1=CC=CC=C1 | C6H6
solvent | ether | 1 liter | CCOCC | C4H10O
solvent | water | O | H2O
product | 2-(2-Furylidene)-3-oxo-4-chlorobutyric acid ethyl ester | Yield: 86.8% | C(C)OC(C(C(CCl)=O)=C1OC=CC1)=O | C10H11ClO4
